US06410562B1
Ethyl 4-Bromo-3-butoxynaphthalen-2-carboxylate (Y=CH2CH3)
The intermediate was prepared from ethyl 4-bromo-3-hydroxynaphthalen-2-carboxylate and butyl iodide in almost quantitative yield and used for the next step without further purification.

reactant | ethyl 4-bromo-3-hydroxynaphthalen-2-carboxylate | BrC1=C(C(=CC2=CC=CC=C12)C(=O)OCC)O | C13H11BrO3
reactant | butyl iodide | C(CCC)I | C4H9I
product | Ethyl 4-Bromo-3-butoxynaphthalen-2-carboxylate | quantitative yield | BrC1=C(C(=CC2=CC=CC=C12)C(=O)OCC)OCCCC | C17H19BrO3
